US09353081B2
[C] 6-Bromo-8-chloro-1-methyl-3,4-dihydro-1H-quinolin-2-one
A solution of 6-bromo-8-chloro-3,4-dihydro-1H-quinolin-2-one (7.0 g, 26.9 mmol) in DMF (100 mL) was treated with potassium tert-butoxide (6.0 g, 53.8 mmol) at 0° C. in portions. The resulting mixture was stirred at 0° C. for 30 min before methyl iodide (5.0 g, 35.0 mmol) was added. After stirring for 12 h, the reaction mixture was treated with water, extracted with EtOAc, washed with water and brine in sequence, and dried over anhy. Na2SO4. After removal of solvents under reduced pressure, the crude product (3.3 g, 45% yield) was obtained as a white solid.

reactant | 6-bromo-8-chloro-3,4-dihydro-1H-quinolin-2-one | 26.9 mmol, 7.0 g | BrC=1C=C2CCC(NC2=C(C1)Cl)=O | C9H7BrClNO
reactant | potassium tert-butoxide | 53.8 mmol, 6.0 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 35.0 mmol, 5.0 g | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-8-chloro-1-methyl-3,4-dihydro-1H-quinolin-2-one | 3.3 g, 45% yield | BrC=1C=C2CCC(N(C2=C(C1)Cl)C)=O | C10H9BrClNO
